US06627629B2
Part G. Preparation of (3S,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-1,1-dioxo-tetrahydro-thiophen-3-ylamine
[(3R,4S)-4-Amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone (560 mg, 1.46 mmol) was treated with borane-tetrahydrofuran complex in tetrahydrofuran (1.0 M; 58 mL, 58 mmol) and stirred for 16.5 h . The mixture was treated slowly with 20% acetic acid in methanol (38 mL), and the resulting mixture was stirred at room temperature for 5.5 h . The solvents were removed, and the residue was dissolved in water, made basic (pH 11) with 50% sodium hydroxide, and extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and concentrated to provide a gum. This was purified by flash column chromatography (4% methanol/dichloromethane, containing 0.4% ammonium hydroxide) to provide the product (304 mg, 61%) as a white solid. 1H NMR (300 mHz, CD3OD) δ7.13 (m, 2H), 6.96 (m, 2H), 3.36 (m, 3H), 2.87 (m, 3H), 2.78 (m, 1H), 2.56 (m, 1H), 2.49 (m, 2H), 2.40 (m, 2H), 1.95 (m, 1H), 1.8-1.6 (m, 4H), 1.50 (m, 1H), 0.95 (m, 1H), ESI MS: (M+H)+=341.2.

reactant | [(3R,4S)-4-Amino-1,1-dioxo-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone | 1.46 mmol, 560 mg | N[C@H]1[C@@H](CS(C1)(=O)=O)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C17H23FN2O3S
reactant | tetrahydrofuran | 58 mmol, 1.0 M, 58 mL | O1CCCC1 | C4H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 38 mL | CO | CH4O
product | (3S,4S)-4-[(S)-3-(4-fluorobenzyl)-piperidin-1-ylmethyl]-1,1-dioxo-tetrahydro-thiophen-3-ylamine | 304 mg, 61% | FC1=CC=C(C[C@H]2CN(CCC2)C[C@H]2[C@@H](CS(C2)(=O)=O)N)C=C1 | C17H25FN2O2S
